Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Fruit Extracts / Chocolate Flavor / Strawberry
 
Attending: ___.
 
Chief Complaint:
angina, pulmonary edema
 
Major Surgical or Invasive Procedure:
coronary artery bypass x 2 (LIMA-LAD, SVG-diagonal), aortic 
valve replacement (23mm ___ tissue) ___

 
History of Present Illness:
The patient recently had an increasein his anginal symptoms and 
underwent echo and stress test with his cardiologist.  
Additionally he developed cough, shortness of breath and pink 
frothy sputum, so he presented to the ED where he was treated 
for pulmonary edema and admitted for further workup.  Cardiac 
catheterization revealed three vessel disease.
 
Past Medical History:
PAST MEDICAL HISTORY:  
1. CARDIAC RISK FACTORS: no Diabetes, + Dyslipidemia, + 
Hypertension  
2. CARDIAC HISTORY:  
- CAD s/p cath at ___ ___: 30% LMCA, 60% proximal LAD, LCx 
with 60% stenosis, RCA completely occluded proximally. This was 
managed medically.  
- Mild AS on cath ___  
3. OTHER PAST MEDICAL HISTORY  
- PVD  
- TIA, s/p left CEA ___ and known total occlusion of the ___ 
right ICA at its origin  
- Tonsillectomy  
- Anxiety Depression  
- ADD  
- MVA x2 c/b chronic back pain  
- Constipation causing impactions  
- Gerd  
- Hyperlipidemia  
- hypertension  

 
Social History:
___
Family History:
Father had a CABG in his ___, lived into his ___. No other 
family history of cardiac disease.
 
Physical Exam:
Pulse:68-regular Resp: 20 O2 sat: 99 on RA
B/P  Right:  127/72  Left: 
Height: 71 inches    Weight:169 lbs

General:
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur3/6 harsh systolic ejection
murmur radiates to carotids
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+ [x]
Extremities: Warm [x], well-perfused [x]  Edema1+ Varicosities:
bilateral None []chronic venous stasis changes
Neuro: Grossly intact [x]
Pulses:
Femoral      Right:cath site-2+ no hematoma   Left:2+
DP           Right:trace   Left:1+
___           Right:1+   Left:trace
Radial       Right:2+   Left:2+

Carotid Bruit        Right: murmur   Left:murmur

 
Pertinent Results:
___ 03:53AM BLOOD WBC-14.5* RBC-2.99* Hgb-9.5* Hct-27.8* 
MCV-93 MCH-31.9 MCHC-34.2 RDW-14.0 Plt ___
___ 05:40AM BLOOD WBC-13.4* RBC-3.21* Hgb-10.1* Hct-30.1* 
MCV-94 MCH-31.5 MCHC-33.5 RDW-14.1 Plt ___
___ 02:46PM BLOOD ___ PTT-34.6 ___
___ 05:40AM BLOOD Glucose-114* UreaN-29* Creat-1.5* Na-140 
K-3.9 Cl-103 HCO3-27 AnGap-14

PRE-BYPASS: 
No atrial septal defect is seen by 2D or color Doppler. There is 
mild symmetric left ventricular hypertrophy. The left 
ventricular cavity size is normal. Regional left ventricular 
wall motion is normal. Overall left ventricular systolic 
function is normal (LVEF>55%). Right ventricular chamber size 
and free wall motion are normal. The aortic arch is mildly 
dilated. There are simple atheroma in the aortic arch. There are 
complex (>4mm) atheroma in the descending thoracic aorta. There 
are three aortic valve leaflets. The aortic valve leaflets are 
severely thickened/deformed. There is moderate aortic valve 
stenosis (valve area 1.0-1.2cm2). No aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. Mild (1+) 
mitral regurgitation is seen. There is no pericardial effusion. 

POST-BYPASS:
Patient is AV paced, on low dose neo.
A prosthetic aortic valve is in place with no leak and no AI. 
Residual mean gradient 16.
Good biventricular systolic fxn. Aorta intact.

Dr. ___ was notified in person of the results in the 
operating room.  
 
Brief Hospital Course:
The patient was admitted and brought to the operating room on 
___ where he underwent AVR, CABG as detailed in the 
operative report.  Overall the patient tolerated the procedure 
well and post-operatively was transferred to the CVICU in 
critical but stable condition for observation and recovery.  POD 
1 found the patient extubated, alert and oriented and breathing 
comfortably.  He was hemodynamically stable, weaned from 
vasopressor support.   He did display some confusion on POD 1, 
however, this cleared.  The patient was transferred to 
telemetry.  Chest tubes and pacing wires were discontinued 
without complication.  The physical therapy service was 
consulted for assistance with post-operative strength and 
mobility.  The patient had some dental work prior to surgery, 
and post-operatively, his crown fell off while eating.  The 
patient was started on amoxicillin and advised to continue this 
until he sees his dentist.  Dr. ___ was consulted via 
telephone and agrees with this plan.   Post-op course was 
essentially uneventful and the patient was cleared by Dr. 
___ discharge home on POD 4.     
 
Medications on Admission:
ASA 81mg daily
simvastatin 40mg daily
ezetimibe 10mg daily
lasix 20 mg q ___
atenolol 50 mg daily
omeprazole 20 mg daily
venlafaxine 100 mg bid
methylphenidate 20 mg bid
ginko biloba 60 mg bid

Plavix - last dose:300 mg ___ am

 
Discharge Medications:
1. Venlafaxine 100 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).
Disp:*60 Tablet(s)* Refills:*2*
2. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
3. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Ezetimibe 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
6. Amoxicillin-Pot Clavulanate 250-62.5 mg/5 mL Suspension for 
Reconstitution Sig: Two (2)  PO Q12H (every 12 hours) as needed 
for lost crown for 2 weeks: **take until further instructed by 
dentist**.
Disp:*56 * Refills:*0*
7. Tramadol 50 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.
Disp:*60 Tablet(s)* Refills:*0*
8. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.  
9. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).
Disp:*60 Tablet(s)* Refills:*2*
10. Metoprolol Tartrate 50 mg Tablet Sig: 2.5 Tablets PO TID (3 
times a day).
Disp:*225 Tablet(s)* Refills:*2*
11. Furosemide 20 mg Tablet Sig: One (1) Tablet PO once a day 
for 1 weeks.
Disp:*7 Tablet(s)* Refills:*0*
12. Potassium Chloride 20 mEq Tab Sust.Rel. Particle/Crystal 
Sig: One (1) Tab Sust.Rel. Particle/Crystal PO once a day for 1 
weeks.
Disp:*7 Tab Sust.Rel. Particle/Crystal(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
aortic stenosis
coronary artery disease

 
Discharge Condition:
good

 
Discharge Instructions:
Please shower daily including washing incisions, no baths or 
swimming 
Monitor wounds for infection - redness, drainage, or increased 
pain 
Report any fever greater than 101 
Report any weight gain of greater than 2 pounds in 24 hours or 5 
pounds in a week 
No creams, lotions, powders, or ointments to incisions 
No driving for approximately one month, and while taking 
narcotics 
No lifting more than 10 pounds for 10 weeks 
Please call with any questions or concerns ___

 
Followup Instructions:
___